* C:\Users\ash750\Documents\GitHub\Summer_research_ash750\esf_op-amp.asc
V1 vpos 0 5
V2 0 vneg 0
C3 0 N001 {CS}
V4 N001 0 SINE(0 1 100) AC 1
B1 vgnd 0 V=(v(vpos)+v(vneg))/2
XU1 vgnd N003 vpos vneg vo LT6220
B2 vgnd N004 I=I(V4)
R3 N003 N004 0.1
C1 vo N003 110p
R1 vo N003 30Meg
;.tran 500m
.ac dec 100 1 100k
.param VS1=1 VS2=VS1*1.01
* PULSE({VS1} {VS2} 0 10n 10n 1m 2m)
.param CS=440p
.lib LTC4.LIB
.backanno
.end
